US06107329
(S)-2-Amino-N-methoxy-N-methyl-3-thiophen-2-yl-propionamide hydrochloride
(S)-[1-(Methoxy-methyl-carbamoyl)-2-thiophen-2-yl-ethyl]-carbamic acid tert-butyl ester (1.3 mmol) was dissolved in 4 M HCl-dioxane (1 mL) at 0° C. and the resulting solution stirred at 25° C. for 2 hours. The mixture was concentrated and the residue triturated with ether giving a yellow solid (321 mg, 96%; HPLC (60/40) 2.24 minutes (98%); MS 215 (MH+, 100%).

reactant | (S)-[1-(Methoxy-methyl-carbamoyl)-2-thiophen-2-yl-ethyl]-carbamic acid tert-butyl ester | 1.3 mmol | C(C)(C)(C)OC(N[C@@H](CC=1SC=CC1)C(N(C)OC)=O)=O | C14H22N2O4S
reactant | HCl dioxane | 4 M, 1 mL | Cl.O1CCOCC1
product | (S)-2-Amino-N-methoxy-N-methyl-3-thiophen-2-yl-propionamide hydrochloride | Cl.N[C@H](C(=O)N(C)OC)CC=1SC=CC1 | InChI=1S/C9H14N2O2S.ClH/c1-11(13-2)9(12)8(10)6-7-4-3-5-14-7;/h3-5,8H,6,10H2,1-2H3;1H/t8-;/m0./s1
